* My QSPICE Symbol Library

* Magnetics (Circuit Elements) by Marcos Alonso 
; AIRGAP, simulating airgap reluctance
.subckt airgap 1 2
; vg, fringing factor (for better modelling of fringing effect. If not used, set to 1)
; lg, length
; Ag, area
.param u0=4*PI*1e-7
;
Rg 1 2 {lg/(u0*Ag*vg)}
;
.ends airgap

; LINEAR RELUCTOR
.subckt reluctor_l 1 2
; vo, fringing factor (for better modelling of fringing effect. If not used, set to 1)
; ur, relative permeability
; lo, length
; Ao, area
.param u0=4*pi*1e-7
Rrl 1 2 {lo/(ur*u0*Ao*vo)}
.ends reluctor_l

; LINEAR RELUCTOR WITH INDUCTION SENSOR
.subckt reluctor_ls 1 2 3 4
; vo, fringing factor (for better modelling of fringing effect. If not used, set to 1)
; ur, relative permeability
; lo, length
; Ao, area
.param u0=4*pi*1e-7
Rrl 1 2 {lo/(ur*u0*Ao*vo)}
; B output
EB 3 4 value={I(Rrl)/Ao} (magnetic flux/area, giving magnetic flux density (B field))
RB 3 4 10k
.ends reluctor_ls

; NON-LINEAR RELUCTOR
.subckt reluctor_nlt 1 2 3 4
; 2, positive mmf pin
; 1, negative mmf pin
; 3, 4, B output
; lm, length
; Am, area
; k1, k2, k3, material coefficients according to Brauer's approximation
.func ut(B) { 1/( k1*exp(k2*B**2) + k3 ) } ; total permeability
;
Em 1 2a value={(lm/(V(um,2)*Am))*I(Em)}
Rm 2a 2 1m ; small resistance to avoid voltage loop
Gmb 2 Bm value={I(Em)/Am}
Rbm Bm 2 1
Gmu 2 um value={ut(V(Bm,2))}
Rmu um 2 1
;
; B Output
EB 3 4 value={V(Bm,2)} (magnetic flux density (B field))
RB 3 4 10k
;
.ends reluctor_nlt

; INCREMENTAL NON-LINEAR RELUCTOR
.subckt reluctor_nld 1 2 3 4
; 2, positive mmf pin
; 1, negative mmf pin
; 3, 4, B output
; lm, length
; Am, area
; k1, k2, k3, material coefficients according to Brauer's approximation
.func ud(B) { 1/( k1*(1+2*k2*B**2)*exp(k2*B**2) + k3 ) } ; differential permeability
;
Em 1 2a value={(lm/(V(um,2)*Am))*I(Em)}
Rm 2a 2 1m ; small resistance to avoid voltage loop
Gmb 2 Bm value={I(Em)/Am}
Rbm Bm 2 1
Gmu 2 um value={ud(V(Bm,2))}
Rmu um 2 1
;
; B Output
EB 3 4 value={V(Bm,2)} (magnetic flux density (B field))
RB 3 4 10k
;
.ends reluctor_nld

; IDEAL PERMANENT MAGNET
.subckt pmagnet_i 1 2
; Hm, coercive force
; lm, length
;
Em 1 2 value={Hm*lm}
;
.ends pmagnet_i

; WINDING
.subckt winding 1 2 3 4 5 6
; 1,2 electric pins
; 3,4 magnetic pins
; 5,6 inductance value pins
; Nw, number of turns
;
; magnetic part
EFw 3 4a value={Nw*I(EVw)}
RFw 4a 4 1m ; small resistance to avoid voltage loop
;
; electric part
GVw 2 w1 value={-I(EFw)}
Rgw w1 w2 1m
Lw w2 2 {Nw}
EVw 1a 2 value={V(w2,2)}
Rew 1 1a 1m ; to avoid voltage loop
;
; inductance calculation
Ei 5 6 value={-Nw*I(EFw)/I(EVw)}
Ri 5 6 10k 
;
.ends winding

; WINDING2
.subckt winding2 1 2 3 4 5 6 7 8
; 1,2 electric pins
; 3,4 magnetic pins, core 1
; 5,6 inductance value pins
; 7,8 magnetic pins, core 2
; Nw, number of turns
;
; magnetic part
EFw 3 4a value={Nw*I(EVw)}
RFw 4a 4 1m ; small resistance to avoid voltage loop
EF1w 7 8a value={Nw*I(EVw)}
RF1w 8a 8 1m ; small resistance to avoid voltage loop
;
; electric part
GVw 2 w1 value={-(I(EFw)+I(EF1w))}
Rgw w1 w2 1m
Lw w2 2 {Nw}
EVw 1a 2 value={V(w2,2)}
Rew 1 1a 1m ; to avoid voltage loop
;
; inductance calculation
Ei 5 6 value={-Nw*(I(EFw)+I(EF1w))/I(EVw)}
Ri 5 6 10k 
;
.ends winding2
